US06927222B2
i) N-{2-[(E)-1-Propenyloxy]phenyl}acetamide
A heterogenic mixture of commercially available 1-chloro-2-butene (Aldrich, predominantly trans) (453 mg, 0.49 mL, 5.00 mmol), 2-acetamidophenol (756 mg, 5.00 mmol) and potassium carbonate (691 mg, 5.00 mmol) in aceton (10 ml) was heated to reflux over night. After evaporation of the solvent the residue was taken up by ethylacetate and water. Washing of the organic phase with water, 5-proz. sodium hyroxide and brine and evaporation of the solvent afforded the crude which was purified by flash chromatography on silica gel (heptane/EtOAc=3:2). Yield: 732 mg (71%) of a brownish yellow solid.Trans: cis=81:19 (ratio determined by 1H-NMR; 400 MHz, CDCl3):

reactant | 1-chloro-2-butene | ClCC=CC | C4H7Cl
reactant | 2-acetamidophenol | 5.00 mmol, 756 mg | C(C)(=O)NC1=C(C=CC=C1)O | C8H9NO2
reactant | potassium carbonate | 5.00 mmol, 691 mg | C([O-])([O-])=O.[K+].[K+]
solvent | aceton | 10 ml | CC(=O)C | C3H6O
product | N-{2-[(E)-1-Propenyloxy]phenyl}acetamide | C(=C\C)/OC1=C(C=CC=C1)NC(C)=O | C11H13NO2
